US07897631B2
4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride (0.078 g, 0.45 mmol) was reacted with 3-(2-Azido-ethyl)-thiophene (0.083 g, 0.543 mmol) following the general procedure for click reactions outlined above to produce 4-{2-[1-(2-Thiophen-3-yl-ethyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine hydrochloride (0.069 g, 47%) of a pale yellow oil. 1H NMR (300 MHz, CD3OD) δ 7.33 (s, 1H), δ 7.19 (dd, 1H), δ 6.85 (d, 1H), δ 6.72 (d, 1H), δ 6.06 (s, 1H), δ 4.45 (t, 2H), δ 3.08 (t, 2H), δ 2.79 (t, 2H), δ 2.59 (t, 2H), ppm 13C (75 MHz, CD3OD) δ 149.3, 147.0, 137.7, 132.1, 127.7, 125.8, 122.4, 121.9, 110.6, 50.8, 30.7, 26.6, 24.8 ppm; HRMS (ESI) calcd for C13H17N6S (M+) 289.1229. found 289.1231.

reactant | 4-But-3-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.45 mmol, 0.078 g | Cl.C(CC#C)C=1N=C(NC1)N
reactant | 3-(2-Azido-ethyl)-thiophene | 0.543 mmol, 0.083 g | N(=[N+]=[N-])CCC1=CSC=C1 | C6H7N3S
product | 4-{2-[1-(2-Thiophen-3-yl-ethyl)-1H-[1,2,3]triazol-4-yl]-ethyl}-1H-imidazol-2-ylamine hydrochloride | 0.069 g, 47% | Cl.S1C=C(C=C1)CCN1N=NC(=C1)CCC=1N=C(NC1)N | InChI=1S/C13H16N6S.ClH/c14-13-15-7-11(16-13)1-2-12-8-19(18-17-12)5-3-10-4-6-20-9-10;/h4,6-9H,1-3,5H2,(H3,14,15,16);1H
